US08729078B2
In a 25 mL round-bottomed flask, N1,N1-dimethyl-N2-(1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-6-yl)ethane-1,2-diamine (405 mg, 1.12 mmol) was combined with DMF (14.9 ml) to give a colorless solution. The reaction mixture was cooled to −20° C. and stirred for 5 min. Chlorosulfonyl isocyanate (477 mg, 293 μl, 3.37 mmol, Eq: 3) in acetonitrile (14.9 ml) was added dropwise and the resultant cooled reaction was stirred at −20° C. and stirred for 3 hrs The reaction mixture was poured into 25 mL sat NaCl and extracted with EtOAc (3×20 ml). After evaporation, crude material was purified by flash chromatography (silica gel, 12 g, 5% to 10% MeOH in DCM) to obtain 6-(2-(dimethylamino)ethylamino)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (211 mg, 82%).

reactant | N1,N1-dimethyl-N2-(1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-6-yl)ethane-1,2-diamine | 1.12 mmol, 405 mg | CN(CCNC1=CC=C2C(=N1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)C | C20H36N4Si
reactant | DMF | 14.9 ml | CN(C)C=O | C3H7NO
reactant | Chlorosulfonyl isocyanate | 3.37 mmol, 293 μl, 477 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | NaCl | [Na+].[Cl-]
solvent | acetonitrile | 14.9 ml | C(C)#N | C2H3N
product | 6-(2-(dimethylamino)ethylamino)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 211 mg, 82% | CN(CCNC1=CC=C2C(=N1)NC=C2C#N)C | C12H15N5
